US09193693B2
Step 3. (S)-methyl 2-chloro-3-(2-methylpyrrolidin-1-yl)quinoxaline-6-carboxylate
Into a 100-mL round-bottom flask, was placed a solution of (S)-methyl 3-(2-methylpyrrolidin-1-yl)-2-oxo-1,2-dihydroquinoxaline-6-carboxylate (900 mg, 3.14 mmol, 1.00 equiv), toluene (20 mL), thionyl chloride (11.2 g, 94.12 mmol, 30.00 equiv), N,N-dimethylformamide (4 mL). The resulting solution was heated to reflux for 3 hr in an oil bath. The resulting mixture was concentrated under vacuum. The residue was purified by silica gel column chromatography with ethyl acetate/petroleum ether (1:50). This resulted in 143 mg (13%) of (S)-methyl 2-chloro-3-(2-methylpyrrolidin-1-yl)quinoxaline-6-carboxylate as yellow oil.

reactant | (S)-methyl 3-(2-methylpyrrolidin-1-yl)-2-oxo-1,2-dihydroquinoxaline-6-carboxylate | 3.14 mmol, 900 mg, 1.00 equiv | C[C@@H]1N(CCC1)C=1C(NC2=CC=C(C=C2N1)C(=O)OC)=O | C15H17N3O3
reactant | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
reactant | thionyl chloride | 94.12 mmol, 11.2 g, 30.00 equiv | S(=O)(Cl)Cl | Cl2OS
solvent | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
product | (S)-methyl 2-chloro-3-(2-methylpyrrolidin-1-yl)quinoxaline-6-carboxylate | ClC1=NC2=CC=C(C=C2N=C1N1[C@H](CCC1)C)C(=O)OC | C15H16ClN3O2
